Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
CP
 
Major Surgical or Invasive Procedure:
Coronary Catheterization ___

 
History of Present Illness:
___ woman with history of hypertension, obesity, and
hyperlipidemia who presented to ___ emergency department
after 2 hours of chest pain in the morning.  The pain was
described as pressure in her central chest radiating to the 
neck,
jaw, and bilateral shoulders.  She notes that the pain was not
positional or change with respiration.  This all occurred while
she was getting ready for work this morning.  She has never
experienced pain like this before, and has no history of
exertional chest pain.  She notes no past medical history of
blood clots, recent travel, immobility, or surgery.  She denies
experiencing associated nausea, vomiting, diaphoresis, back 
pain,
fevers, chills, cough, shortness of breath, or abdominal pain.

At ___ she was noted to have concerning changes on her EKG
and troponin to 0.02 with normal CK MB.  She was given 325 mg of
aspirin and transferred over to ___ for further evaluation.

In the ___ emergency 
department,
she was started on a heparin drip and her home medications were
restarted.  Her troponins were monitored, and peaked at 0.49 
from
0.38.  Her EKGs were monitored, demonstrating evolving T wave
inversions in lateral leads V1 through V6 as well as small ST
depressions in V4.  She was evaluated by ___'s cardiology and
plan for cardiac catheterization in the morning of ___.

In the ED initial vitals were:  
98.1F, 81, 138/79, 16, 95% RA 
 
EKG:  ___ NSR 76 NA QTc 159 TWI III, TWF in lateral leads
avF, TWF V3; 
___ NSR 80, changes from prior include TWF III, TWI now 
in
V1-V5, ?STD submm ___ 0800 NSR 77, changes from prior include TWI I, avL,
deepening TWI V1-V6

Labs/studies notable for: 
___ 06:29PM BLOOD WBC: 10.4 
___ 06:29PM BLOOD cTropnT: 0.38 
___ 01:00AM BLOOD CK-MB: 22 cTropnT: 0.49
___ 07:45AM BLOOD CK-MB: 16 
___ 07:45AM BLOOD cTropnT: 0.39 

CXR ___
No acute intrathoracic process
 
Patient was given:  
___ 20:03 IV Heparin 4000 UNIT 
___ 20:03 IV Heparin  Started 800 units/hr 
___ 22:44 PO BusPIRone 15 mg 
___ 01:11 IV Heparin  No Change in Rate, rate continued 
at
800 units/hr 
___ 02:19 IV Heparin  Increase Rate by 150 units/hr to 
950
units/hr 
___ 09:18 IV Heparin  Increase Rate by 150 units/hr to
1100 units/hr 
___ 11:38 PO BusPIRone 15 mg 
___ 11:38 PO/NG Atenolol 25 mg 
___ 11:38 PO/NG FLUoxetine 80 mg   
___ 11:43 PO BuPROPion (Sustained Release) 100 mg  
___ 15:39 IV Heparin  Increase Rate by 150 units/hr to
1250 units/hr 

Vitals on transfer: 
HR:78, 127/68, 16, 98% RA 
  
On the floor patient verified the above history.  She notes that
she has had no prior history of this chest pressure that 
radiates
to her shoulders and jaw in the past.  She however is uncertain
if a prior occurrence of symptoms was misinterpreted as anxiety
attack, which presents very similarly.  She denies any 
associated
shortness of breath, nausea, vomiting, or bowel or bladder
incontinence.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY 
Depressive Disorder 
 
Social History:
___
Family History:
Father: CAD/PVD s/p angioplasty at ___, AFIB/CHF
Mother: HLD, CAD/PVD
M. Uncle: MI in late ______.
MGM: HTN, Colon Cancer
PGF: CVA 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.6°F, 75, 117/76, 18, 93% on room air.
GENERAL: Obese woman appears older than stated age, no acute
distress.  
HEENT: Pupils equal round reactive to light and accommodation,
extraocular muscles, moist mucous membranes, non-erythematous
oropharynx.
NECK: Supple with no JVD appreciated.
CARDIAC: Regular rate and rhythm with no murmurs, gallops, rubs,
loud S2. 
LUNGS: Clear to auscultation bilaterally with no wheezes,
crackles, or rhonchi.
ABDOMEN: Obese, soft, nontender, nondistended..  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM
=======================
VS: 98.3F, 86, 134/86, 20, 96% on RA
GENERAL: Obese woman in NAD
HEENT: PEERL, EOMI, sclera anicteric
NECK: Supple, JVP not appreciated. 
CARDIAC: Regular rate and rhythm with no murmurs, gallops, rubs,
loud S2. 
LUNGS: Clear to auscultation bilaterally with no wheezes,
crackles, or rhonchi.
ABDOMEN: Obese, soft, nontender, nondistended.
EXTREMITIES: No c/c/e.  
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:29PM BLOOD WBC-10.4* RBC-4.55 Hgb-13.5 Hct-39.6 
MCV-87 MCH-29.7 MCHC-34.1 RDW-12.8 RDWSD-40.7 Plt ___
___ 01:00AM BLOOD ___ PTT-40.7* ___
___ 06:29PM BLOOD Glucose-91 UreaN-12 Creat-0.8 Na-139 
K-4.2 Cl-99 HCO3-23 AnGap-17
___ 06:29PM BLOOD cTropnT-0.38*

PERTINENT RESULTS
=================

___ 01:00AM BLOOD CK-MB-22* cTropnT-0.49*
___ 07:45AM BLOOD CK-MB-16*
___ 07:45AM BLOOD cTropnT-0.39*
___ 02:58PM BLOOD cTropnT-0.22*
___ 04:46AM BLOOD CK-MB-5 cTropnT-0.23*
___ 08:40PM BLOOD cTropnT-0.24*
___ 06:50AM BLOOD CK-MB-12* MB Indx-7.1* cTropnT-0.27*

CORONARY CATH ___
Coronary Anatomy
Right dominant
LM: No disease.
LAD: Serial 90% lesions in mid LAD.
LCx: Ostial OM1 80% stenosis.
RCA: Proximal 30% stenosis.

Interventional Details
After discussion with Dr. ___ proceeded with PCI of the 
LAD. The plan was to medical manage the OM lesion. EBU3.5 guide 
engaged the LM. The LAD was wired with a Runthrough wire. 
Angioplasty with a 2.0 balloon followed by placement of a 2.5 x 
30 mm Onyx DES. Post-dilated with a 2.75 NC balloon throughout.
TIMI III flow, 0% residual.

Impressions:
Serial 90% mid LAD lesions, s/p placement of a single 2.5 x 30 
DES, post-dilated to 2.75.
OM1 80% lesion, not stented.

TTE ___
The left atrial volume index is normal. Normal left ventricular 
wall thickness, cavity size, and regional/global systolic 
function (biplane LVEF = 63 %). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. There is 
borderline pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. No valvular 
pathology or pathologic flow identified.

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data. 

DISCHARGE LABS
==============
___ 06:50AM BLOOD WBC-9.7 RBC-4.23 Hgb-12.6 Hct-37.9 MCV-90 
MCH-29.8 MCHC-33.2 RDW-13.0 RDWSD-42.4 Plt ___
___ 06:50AM BLOOD Glucose-116* UreaN-14 Creat-0.7 Na-142 
K-4.5 Cl-104 HCO3-22 AnGap-___ with obesity, HTN, HLD who presented with central chest 
pressure of 1.5 hours with concomitant EKG changes and troponin 
elevation consistent with NSTEMI s/p DES to LAD. 

ACUTE ISSUES
============
#NSTEMI
Patient presented with central chest pressure of 1.5 hours 
alongside diffuse lateral lead TWI and concomitant troponin 
elevation found to have NSTEMI with LAD and OM1 disease. DES 
placed to LAD, OM1 lesion of 80% not intervened upon. Medically 
optimized, will need outpatient follow up for exercise MIBI to 
determine if wall motion abnormalities are being caused by OM1 
lesion. Started on aspirin 81 mg daily, atorvastatin 80 mg 
daily, lisinopril 5 mg daily, metoprolol succinate 25 mg daily, 
and ticagrelor on discharge. 

#HTN
Patient has history of chronic hypertension. Her home HCTZ and 
atenolol were discontinued and lisinopril and metoprolol were 
started. SBP in 120-140's while on this regimen.

#HLD:
Patient with hyperlipidemia started on high dose atorvastatin 
for above CAD.

TRANSITIONAL ISSUES
===================
New Medications: aspirin, atorvastatin, lisinopril, metoprolol, 
and ticagrelor 
Stopped Medications: Atenolol, HCTZ

EF AT DISCHARGE: 63%

- Patient diagnosed with LAD and OM1 lesions, LAD lesion 
intervened upon. Will need outpatient exercise MIBI to evaluate 
if further ischemic deficits being caused by OM1 lesion as an 
outpatient.
- No heavy lifting or reaching for two weeks.
- f/u PCP ___ in ___ days. Patient provided with 
contact information
- Consider outpatient cardiac rehab
- f/u with Cardiologist Dr. ___ within 2 weeks. 
Patient provided with contact information to make an 
appointment.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 80 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. BuPROPion (Sustained Release) 100 mg PO QAM 
4. Atenolol 25 mg PO DAILY 
5. BusPIRone 15 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
6.  BuPROPion (Sustained Release) 100 mg PO QAM  
7.  BusPIRone 15 mg PO BID  
8.  FLUoxetine 80 mg PO DAILY  
9. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until restarted by your 
doctor or cardiologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
NSTEMI

SECONDARY DIAGNOSIS
===================
HLD
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHAT BROUGHT YOU INTO THE HOSPITAL?
- You were admitted for chest pressure found to be caused by a 
heart attack.

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- You had a procedure called a coronary catheterization where 
they placed a stent in your coronary artery and opened up the 
artery.

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- You were started on a number of medicines while in the 
hospital: aspirin, atorvastatin, lisinopril, metoprolol, and 
ticagrelor (brilinta).  Please continue taking these medicines 
every day.
- It is VERY IMPORTANT that you take your ASPIRIN and TICAGRELOR 
EVERY DAY.  Do not stop taking these medicines unless instructed 
to do so by your cardiologist.
- A couple of your home medicines were stopped: atenolol and 
hydrochlorothiazide.  Please do not take these medicines after 
leaving the hospital.   

- You should refrain from heavy lifting or reaching for the next 
two weeks.  You should refrain from going into work for the next 
two weeks as well.  You will be provided a letter to provide 
your employers.
- You need to follow up with your PCP ___ in the next ___ 
days.  Please call their office at ___ to make an 
appointment.
- You need to follow up with a cardiologist in the next 2 weeks. 
 We have communicated with one of our cardiologists at the 
___ office, Dr. ___, to set up care with you.  Please 
call ___ to make an appointment.

We wish you the best in your recovery!

Your ___ Care Team
 
Followup Instructions:
___